US09422331B2
A rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-5-((3-methylquinolin-4-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (96 mg, 167 μmol) in 4 M HCl in dioxane (837 μl) was stirred for 1.5 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((2S,3S)-1-acetyl-2-methyl-5-((3-methylquinolin-4-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride (72.2 mg, 79%) as an off-white solid. MS m/z 474 (MH)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-5-((3-methylquinolin-4-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 167 μmol, 96 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=NC3=CC=CC=C13)C)C=CC=C2 | C32H39N5O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 837 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((2S,3S)-1-acetyl-2-methyl-5-((3-methylquinolin-4-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride | 72.2 mg, 79% | Cl.Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=NC3=CC=CC=C13)C)C=CC=C2 | InChI=1S/C27H31N5O3.2ClH/c1-16-14-29-22-11-7-6-10-20(22)21(16)15-31-23-12-8-9-13-24(23)32(19(4)33)18(3)25(27(31)35)30-26(34)17(2)28-5;;/h6-14,17-18,25,28H,15H2,1-5H3,(H,30,34);2*1H/t17-,18-,25-;;/m0../s1
